US04861769
Phosphorus oxychloride (0.53 ml) was dropwise added to N,N-dimethylformamide (0.42 ml) under ice-cooling. After stirring for 10 minutes at the same temperature, the mixture was cooled until a precipitate appeared. To the suspension was added 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (1.12 g). The mixture was stirred at the same temperature for 30 minutes to give an activated acid solution. On the other hand, a mixture of 7β-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (1.5 g), N-trimethylsilylacetamide (1.4 g) and bis(trimethylsilyl)acetamide (2.2 g) in tetrahydrofuran (26 ml) was stirred at 30° C. for 30 minutes to give a clear solution. To the clear solution was added the activated acid solution prepared above at -30° C. The mixture was stirred for 30 minutes at -20° C. to -15° C. The mixture was poured into ice-water, adjusted to pH 7.2 with saturated aqueous solution of sodium bicarbonate, and washed with ethyl acetate. The aqueous solution was adjusted to pH 2.5 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (2.1 g).

reactant | Phosphorus oxychloride | 0.53 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 1.12 g | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
reactant | 7β-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.5 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
reactant | N-trimethylsilylacetamide | 1.4 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 2.2 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.42 ml | CN(C=O)C | C3H7NO
product | 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 2.1 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H18N6O8S2
